US08222416B2
A mixture of 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl]-2-fluoro-benzoic acid methyl ester (2.50 g, 5 mmol) and tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 50 mL) was stirred at 25° C. for 40 h. The reaction was quenched with a saturated aqueous ammonium chloride solution (50 mL). The mixture was extracted with ethyl acetate (2×150 mL), washed with a saturated aqueous ammonium chloride solution (3×100 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-fluoro-4-[1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl]-benzoic acid methyl ester (660 mg, 36%) which was used in the next step without further purification: LC/MS m/e calcd for C20H18F2N2O2 [M+H]+ 357.38, observed 356.9.

reactant | 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl]-2-fluoro-benzoic acid methyl ester | 5 mmol, 2.50 g | COC(C1=C(C=C(C=C1)C(=CC(C)C)C1=CC=2C(=NC=C(C2)F)N1S(=O)(=O)C1=CC=CC=C1)F)=O | C26H22F2N2O4S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 50 mL | O1CCCC1 | C4H8O
product | 2-fluoro-4-[1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl]-benzoic acid methyl ester | 660 mg, 36% | COC(C1=C(C=C(C=C1)C(=CC(C)C)C1=CC=2C(=NC=C(C2)F)N1)F)=O | C20H18F2N2O2
